US05696117
3,4-Dihydro-2-(2-hydroxyethyl)-7-methoxy-4-(3-nitrobenzyl)-3-oxo-2H-1,4-benzoxazine
Prepared from 2-(2-tert-butyldimethylsiloxyethyl)-3,4-dihydro-7-methoxy-3-oxo-2H-1,4-benzoxazine by methods F and I, alkylating with 3-nitrobenzyl chloride, in 30% yield, mp 116°-118° C.; MS (CI) MH+ 359; IR (KBr) 3306, 3086, 2926, 2872, 1628, 1595, 1476, 1309, 1290, 1255, 1087, 999, 713, 458 cm-1 ; 1H NMR (DMSO-d6) δ8.14 (s, 1H), 8.11 (s, 1H), 7.63 (m, 2H), 6.97 (d, 1H, J=8.93 Hz), 6.66 (d, 1H, J=2.42 Hz), 6.53 (d, 1H, J=8.87 Hz), 5.26 (s, 2H), 4.87 (dd, 1H, J=8.98, 3.76 Hz), 4.72 (t, 1H, J=5.23 Hz), 3.68 (s, 3H), 3.61 (m, 2H), 2.01 (m, 1H), 1.90 (m, 1H). Anal. Calc'd for C18H18N2O6 : C 60.33 H 5.06, N 7.82. Found: C 59.96, H 5.08, N 7.62.

reactant | 2-(2-tert-butyldimethylsiloxyethyl)-3,4-dihydro-7-methoxy-3-oxo-2H-1,4-benzoxazine | O([Si](C)(C)C(C)(C)C)CCC1OC2=C(NC1=O)C=CC(=C2)OC | C17H27NO4Si
reactant | 3-nitrobenzyl chloride | [N+](=O)([O-])C=1C=C(CCl)C=CC1 | C7H6ClNO2
reactant | KBr | [K+].[Br-]
product | 3,4-Dihydro-2-(2-hydroxyethyl)-7-methoxy-4-(3-nitrobenzyl)-3-oxo-2H-1,4-benzoxazine | 30% yield | OCCC1OC2=C(N(C1=O)CC1=CC(=CC=C1)[N+](=O)[O-])C=CC(=C2)OC | C18H18N2O6
